US07049342B2
(4-Methoxy-3-nitrophenyl)methanol
Under an argon atmosphere and cooling with ice, borane-tetrahydrofuran complex (1.00 mol/L, tetrahydrofuran solution, 100 mL, 100 mmol) was added dropwise to a solution of 4-methoxy-3-nitrobenzoic acid (15.3 g, 76.1 mmol) in anhydrous tetrahydrofuran (200 mL) under stirring. After completion of the dropwise addition, the mixture was allowed to stand overnight at room temperature. The reaction mixture was cooled with ice again and 6 mol/L hydrochloric acid (20 mL) was added dropwise. After stirring for 30 minutes, the mixture was concentrated under reduced pressure. The residue was poured into 1 L of ice water and, after stirring for 30 minutes, the precipitates produced were collected by filtration, washed with water and dried to afford 12.5 g (90%) of the title compound as pale yellow crystals.

reactant | borane tetrahydrofuran | 100 mmol, 1.00 mol/L, 100 mL | B.O1CCCC1
reactant | 4-methoxy-3-nitrobenzoic acid | 76.1 mmol, 15.3 g | COC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | hydrochloric acid | 6 mol/L, 20 mL | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (4-Methoxy-3-nitrophenyl)methanol | 12.5 g, 90% | COC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C8H9NO4
